US06432975B1
Quinuclidin-3-one hydrochloride (4.6 g, 28.3 mmol) and powdered anhydrous potassium hydroxide (2.1 g, 37.2 mmol) were dissolved in methanol (25 ml) and stirred for 15 mins. Pyridine-3-carboxaldehyde (3.2 g, 29.5 mmol) was then added in one portion and the mixture was stirred for an additional 20 hrs. The reaction mixture was then diluted with 40 ml water and cooled to 0° C. yielding 2-((3-pyridyl)methylene)-1-azabicyclo[2.2.2]octan-3-one as a yellow precipitate, which was collected, washed with distilled water and dried under vacuum (5.16 g, 81.4%). 2-((3-Pyridyl)methylene)-1-azabicyclo[2.2.2]octan-3-one (3 g, 140 mmol) was dissolved in 200 ml methanol and sodium borohydride (3 g, 79.6 mmol) was added in portions (exothermic reaction) with vigorous stirring. After 1 hr of continued stirring, acetone (100 ml) was slowly added to neutralize the remaining borohydride reagent. The mixture was evaporated to dryness and the resulting residue suspended in water (200 ml) and extracted three times with 200 ml portions of chloroform. The chloroform phases were combined, dried over MgSO4, and rotary evaporated to give a clear oil; crystallization of the free base gave a quantitative yield of 2-((3-pyridyl)methylene)-1-azabicyclo[2.2.2]octan-3-ol as a white precipitate. 2-((3-Pyridyl)methylene)-1-azabicyclo[2.2.2]octan-3-ol (1 g, 4.7 mmol) was combined with neat thionyl chloride (20 ml, 26.9 mmol) stirred under a nitrogen atmosphere at 0° C., the reaction was than brought to room temperature and stirred for one additional hour. Rotary evaporation at 60° C. produced a viscous oil which when suspended in ether afforded 3-chloro-2-((3-pyridyl)methylene)-1-azabicyclo[2.2.2]octane dihydrochloride as a hygroscopic precipitate (0.98 g, 91%). The chloroquinuclidine (0.3 g, 1.3 mmol) was combined with 50 ml ethanol in a hydrogenation vessel, then wet Raney nickel (2.5 grams) was added in one portion. Hydrogenation (50 psig) was carried out for 6 hrs., after which time the slurry was carefully filtered through a pad of Celite filter aid. Evaporation of solvent gave the desired 2-((3-pyridyl)methylene)-1-azabicyclo[2.2.2]octane dihydrochloride as a white reside which easily recrystallized from ethanol-ether to give a white crystalline solid (0.21 g 70%).

reactant | chloroquinuclidine | 1.3 mmol, 0.3 g | ClC1N2CCC(C1)CC2 | C7H12ClN
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney nickel | 2.5 grams | [Ni] | Ni
product | 2-((3-pyridyl)methylene)-1-azabicyclo[2.2.2]octane dihydrochloride | Cl.Cl.N1=CC(=CC=C1)C=C1N2CCC(C1)CC2 | InChI=1S/C13H16N2.2ClH/c1-2-12(10-14-5-1)9-13-8-11-3-6-15(13)7-4-11;;/h1-2,5,9-11H,3-4,6-8H2;2*1H
